US07179823B1
A mixture of [1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]methanol (16.59 g), activated manganese dioxide (35.19 g) and tetrahydrofuran (100 ml) was stirred at room temperature for 3 hours. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The crystals obtained were collected by filtration to yield 1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazole-4-carbaldehyde (14.73 g, yield: 89%). This was recrystallized from ethyl acetate-hexane. Melting point: 109–110° C.

reactant | [1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]methanol | 16.59 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CO)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C=2OC=CC2)C=C1)C | C36H32N4O8
catalyst | manganese dioxide | 35.19 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazole-4-carbaldehyde | 14.73 g, yield: 89% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)C=O)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C=2OC=CC2)C=C1)C | C36H30N4O8
